US07576215B2
[4-(3,5-DIFLUOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
To (4-chloro-8-trifluoromethyl-quinoline-3-yl)-phenyl-methanone (150 mg, 0.448 mmol), 3,5-difluorophenyl boronic acid (141 mg, 0.895 mmol), tetrakis(triphenylphosphine) palladium (52 mg, 0.045 mmol), sodium carbonate (50 mg, 1.41 mmol) in water (750 ml), glyme (2 ml), and ethanol (350 ml), was subjected to micro wave conditions (140° C., 300 watts, 300 sec.). The resulting dark red-brown mixture was filtered concentration in vacuo. Reverse phase gradient HPLC (CH3CN, H2O) afforded the title compound as a yellow powder (88 mg, 48%). MS (ESI) m/z 414; HRMS: calcd for C23H12F5NO, 413.0839; found (ESI, [M+H]+), 414.0911.

reactant | (4-chloro-8-trifluoromethyl-quinoline-3-yl)-phenyl-methanone | 0.448 mmol, 150 mg | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H9ClF3NO
reactant | 3,5-difluorophenyl boronic acid | 0.895 mmol, 141 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 1.41 mmol, 50 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 750 ml | O | H2O
solvent | glyme | 2 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.045 mmol, 52 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-(3,5-DIFLUOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | 88 mg, 48% | FC=1C=C(C=C(C1)F)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H12F5NO
